US04853392
Ethyl 4-[2-(2-propylimidazol-1-yl)propoxyl]-3-ketobutanoate
2-(2-propylimidazol-1-yl)propan-1-ol (from Preparation 1 above) (5.4 g) was added and the suspension was sonicated until there was no further gas evolution. Ethyl-4-chloroacetoacetate (4.83 g) in tetrahydrofuran (10 ml) was added over 5 minutes with sonication and sonication continued at 25°-35° C. for a further 4 hours. The suspension was poured into 2N hydrochloric acid (30 ml) and the tetrahydrofuran removed under reduced pressure. The aqueous solution was washed with toluene (30 ml) and then neutralised with potassium carbonate. The aqueous solution was extracted with dichloromethane (3×100 ml), the combined organic extracts dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was chromatographed over silica eluting with a mixture of methanol and ethyl acetate (1:9) yielding the title compound as a pale red oil 3.5 g (40%).

reactant | 2-(2-propylimidazol-1-yl)propan-1-ol | 5.4 g | C(CC)C=1N(C=CN1)C(CO)C | C9H16N2O
reactant | Ethyl-4-chloroacetoacetate | 4.83 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 4-[2-(2-propylimidazol-1-yl)propoxyl]-3-ketobutanoate | 3.5 g, 40% | C(CC)C=1N(C=CN1)C(COCC(CC(=O)OCC)=O)C | C15H24N2O4
